US04061656
20.0 G. of 2,4-dibromo-3,5-dimethylthiophene was dissolved in 300 ml. of anhydrous ethyl ether. The resulting solution was cooled to -70° C. With stirring under argon. 32 Ml. of a 2.4 M solution of n-butyl lithium was added slowly and the solution was warmed to -32° C. for 10 minutes and then cooled again to 31 70° C. 7.5 G. of dimethyl disulfide was added slowly while the temperature was maintained at -70° C. The resulting solution was warmed to room termperature and stirred for 2 hours thne poured into ice water, stirred for 15 minutes, and extracted with ethyl ether. The combined ether extracts were washed with water, 5% sodium carbonate, and saturated sodium chloride solution; dried over sodium sulfate, filtered and evaporated to yield 3-bromo-2,4-dimethyl-5-(methylthio)thiophene.

reactant | 2,4-dibromo-3,5-dimethylthiophene | BrC=1SC(=C(C1C)Br)C | C6H6Br2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dimethyl disulfide | CSSC | C2H6S2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-bromo-2,4-dimethyl-5-(methylthio)thiophene | BrC1=C(SC(=C1C)SC)C | C7H9BrS2
